US08975254B2
c) 5-((1H-imidazol-1-yl)methyl)thiazole-2-carboxylic acid
A solution of ethyl 5-((1H-imidazol-1-yl)methyl)thiazole-2-carboxylate (143 mg, 0.60 mmol) and 1 M LiOH solution (1.2 ml, 1.2 mmol) in THF (2 ml) and MeOH (1 ml) was stirred at RT for 1.5 h. Some 1 M HCl was added until pH of the mixture was about 8. Solvents were evaporated and thus obtained crude product was used as such in the next synthesis step. 1H-NMR (400 MHz; d6-DMSO): δ 5.28 (s, 2H), 6.92 (s, 1H), 7.22 (s, 1H), 7.54 (s, 1H), 7.79 (s, 1H).

reactant | ethyl 5-((1H-imidazol-1-yl)methyl)thiazole-2-carboxylate | 0.60 mmol, 143 mg | N1(C=NC=C1)CC1=CN=C(S1)C(=O)OCC | C10H11N3O2S
reactant | LiOH | 1.2 mmol, 1 M, 1.2 ml | [Li+].[OH-]
reactant | HCl | 1 M | Cl | ClH
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | MeOH | 1 ml | CO | CH4O
product | 5-((1H-imidazol-1-yl)methyl)thiazole-2-carboxylic acid | N1(C=NC=C1)CC1=CN=C(S1)C(=O)O | C8H7N3O2S
